US08420655B2
1-tert-Butyl-5-(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(5-methoxy-2-pyrazol-1-yl-phenyl)-1H-benzimidazole
In a microwave vial are combined 1-tert-butyl-2-(5-methoxy-2-pyrazol-1-yl-phenyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzimidazole (285 mg, 0.60 mmol), 5-bromo-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine (100 mg, 0.50 mmol), potassium carbonate (140 mg, 1.0 mmol), and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (53 mg, 0.08 mmol) in toluene (3.0 mL) and water (0.30 mL). The reaction vial is sealed and stirred at 100° C. for 4 hours in an oil bath. After this time the reaction is cooled and poured into water. The product is extracted into EtOAc (2×). The combined organics are dried (MgSO4), filtered and concentrated. Purification via flash chromatography (12 g silica gel, 0-5% MeOH/CH2Cl2) affords the title compound (40 mg, 17%). LCMS (ESMS): m/z 465.20 (M++1)

reactant | 1-tert-butyl-2-(5-methoxy-2-pyrazol-1-yl-phenyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzimidazole | 0.60 mmol, 285 mg | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C)C2=C(C=CC(=C2)OC)N2N=CC=C2 | C27H33BN4O3
reactant | 5-bromo-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine | 0.50 mmol, 100 mg | BrC=1C=C2C(=NC1)NCC2 | C7H7BrN2
reactant | potassium carbonate | 1.0 mmol, 140 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.30 mL | O | H2O
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.08 mmol, 53 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 1-tert-Butyl-5-(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(5-methoxy-2-pyrazol-1-yl-phenyl)-1H-benzimidazole | 40 mg, 17% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=C1C(=NC2)NCC1)C1=C(C=CC(=C1)OC)N1N=CC=C1 | C28H28N6O
